US06734301B2
A solution of 2-(3-benzyl-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-1-ethanol (320 mg, 1.0 mmol) in dichloromethane (10 mL) is cooled to 0° C., treated with methanesulfonyl chloride (93 μL, 1.2 mmol), and triethylamine (0.21 mL, 1.5 mmol). After 30 min, the yellow solution is diluted with additional dichloromethane (15 mL) and washed once with water (15 mL), once with brine (15 mL), dried over MgSO4, filtered, and concentrated to give a yellow oil. This crude material is diluted with acetonitrile (10 mL) and treated with benzylamine (0.33 mL, 3.0 mmol), and powdered potassium carbonate (415 mg, 3.0 mmol) followed by heating to reflux. After 18 hrs, the yellow suspension is cooled to rt, concentrated, diluted with water (15 mL), and extracted twice with dichloromethane (20 mL). The combined organics are washed with brine (20 mL), dried over MgSO4, filtered, and concentrated to give a crude oil. This material is purified by LC (230-400 silica gel) eluting with 4:0.5:95.5 methanol/NH4OH/dichloromethane to afford 220 mg of N-benzyl-2-(3-benzyl-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-1-ethanamine as a yellow oil. IR (liq.) 3025, 2913, 2811, 1494, 1478, 1469, 1453, 1427, 1372, 1363, 1347, 1324, 1120, 733, 698 cm−1; MS (EI) m/z 409 (M+).

reactant | 2-(3-benzyl-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-1-ethanol | 1.0 mmol, 320 mg | C(C1=CC=CC=C1)N1CCN2C(=C(C=3C=CC=CC23)CCO)CC1 | C21H24N2O
reactant | methanesulfonyl chloride | 1.2 mmol, 93 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 3.0 mmol, 0.33 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | 3.0 mmol, 415 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-benzyl-2-(3-benzyl-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-1-ethanamine | 220 mg | C(C1=CC=CC=C1)NCCC1=C2N(C=3C=CC=CC13)CCN(CC2)CC2=CC=CC=C2 | C28H31N3
